US06740662B1
To a 10 ml THF solution containing 700 mg of 4-(3-chlorophenyl)-1-ethyl-3-(3-methanesulfonyloxypropyl)-7-methyl-1,8-naphthyridin-2(1H)-one were added 0.5 ml of pyrrolidine and 300 mg of potassium iodide, followed by stirring under heating at an oil bath temperature of 60° C. for 1.5 hours. After cooling to room temperature, water and 1M hydrochloric acid were added thereto, and the whole was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. Then, the solvent was evaporated and the residue was purified by a silica gel column chromatography (chloroform-methanol-aqueous ammonia). The resulting compound was dissolved in ethyl acetate and a 4M hydrogen chloride-ethyl acetate solution was added thereto. Thereafter, the residue obtained by evaporation of the solvent was recrystallized from ethyl acetate-acetonitrile to obtain 133 mg of 4-(3-chlorophenyl)-1-ethyl-7-methyl-3-[3-(pyrrolidin-1-yl)propyl]-1,8-naphthyridin-2(1H)-one monohydrochloride as colorless crystals.

reactant | 4-(3-chlorophenyl)-1-ethyl-3-(3-methanesulfonyloxypropyl)-7-methyl-1,8-naphthyridin-2(1H)-one | 700 mg | ClC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)C)CC)=O)CCCOS(=O)(=O)C | C21H23ClN2O4S
reactant | pyrrolidine | 0.5 ml | N1CCCC1 | C4H9N
reactant | potassium iodide | 300 mg | [I-].[K+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | water | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-(3-chlorophenyl)-1-ethyl-7-methyl-3-[3-(pyrrolidin-1-yl)propyl]-1,8-naphthyridin-2(1H)-one monohydrochloride | 133 mg | Cl.ClC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)C)CC)=O)CCCN1CCCC1 | InChI=1S/C24H28ClN3O.ClH/c1-3-28-23-20(12-11-17(2)26-23)22(18-8-6-9-19(25)16-18)21(24(28)29)10-7-15-27-13-4-5-14-27;/h6,8-9,11-12,16H,3-5,7,10,13-15H2,1-2H3;1H
